US07291631B2
To a stirred solution of 2-mercaptobenzimidazole (2.0 g, 13 mmol) and N-(4-bromobutyl)phthalimide (3.8 g, 13 mmol) in EtOH (50 mL) was added solid K2CO3 (2.2 g, 16 mmol). The resulting mixture was heated to reflux for 18 h, then cooled to room temperature and saturated aqueous NaHCO3 (50 mL) was added. The phases were separated, and the aqueous layer was extracted with CH2Cl2 (3×50 mL) then the combined organic fractions were dried (MgSO4), and concentrated. Purification of the crude material thus obtained by flash chromatography (silica gel, hexane/EtOAc; 4:1) afforded 4.2 g of 2-[4-(1H-benzoimidazol-2-ylsulfanyl)-butyl]-isoindole-1,3-dione (90% yield).

reactant | 2-mercaptobenzimidazole | 13 mmol, 2.0 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | N-(4-bromobutyl)phthalimide | 13 mmol, 3.8 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | K2CO3 | 16 mmol, 2.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | 2-[4-(1H-benzoimidazol-2-ylsulfanyl)-butyl]-isoindole-1,3-dione | 4.2 g, 90% yield | N1C(=NC2=C1C=CC=C2)SCCCCN2C(C1=CC=CC=C1C2=O)=O | C19H17N3O2S
